US07745484B2
Diethylisopropylidenemalonate (6.686 ml, 34.09 mmol) was dissolved in 300 ml Et2O and cooled to −78° C. 4-Methoxybenzylmagnesium chloride (150.000 ml, 37.50 mmol) was added and stirring was continued for 5 h. The temperature was warmed up to 0° C. The reaction was hydrolyzed with 0.5 M HCl and extracted 3×EtOAc. Glass col. Chromatography (10-50% EtOAc in Hex.) provided diethyl 2-(1-(4-methoxyphenyl)-2-methylpropan-2-yl)malonate. MS m/z: 323.1 (M+1).

reactant | Diethylisopropylidenemalonate | 34.09 mmol, 6.686 ml | C(C)OC(C(C(=O)OCC)=C(C)C)=O | C10H16O4
reactant | 4-Methoxybenzylmagnesium chloride | 37.50 mmol, 150.000 ml | COC1=CC=C(C[Mg]Cl)C=C1
reactant | HCl | 0.5 M | Cl | ClH
solvent | Et2O | 300 ml | CCOCC | C4H10O
product | diethyl 2-(1-(4-methoxyphenyl)-2-methylpropan-2-yl)malonate | COC1=CC=C(C=C1)CC(C)(C)C(C(=O)OCC)C(=O)OCC | C18H26O5
